US06255494B1
Preparation of 4-methoxy-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(3-phenylpropyl)piperidin-4-yl]propyl]benzimidazole
A solution of 4-methoxy-2-[(4-chlorophenoxy)methyl]-1-[3-(piperidin-4-yl)propyl]benzimidazole trifluoroacetate (177 mg, 0.29 mmol, 1 eq) in anhydrous N,N-dimethylformamide (2 ml) was treated with potassium carbonate (120 mg, 0.87 mmol, 3 eq) and 3-phenylpropyl bromide (87 mg, 0.43 mmol, 1.5 eq). The resulting mixture was stirred at 80° C. for six hours. The reaction was quenched by the addition of water (5 ml). The aqueous fraction was extracted with ethyl acetate (3×10 ml). The organic fractions were combined, washed with water (3×10 ml), and brine (1×10 ml), and then dried over sodium sulfate. The solvents were removed in vacuo. The residue was further purified by column chromatography to yield the title product as a white crystalline solid.

reactant | 4-methoxy-2-[(4-chlorophenoxy)methyl]-1-[3-(piperidin-4-yl)propyl]benzimidazole trifluoroacetate | 0.29 mmol, 177 mg, 1 eq | FC(C(=O)O)(F)F.COC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCNCC2
reactant | potassium carbonate | 0.87 mmol, 120 mg, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 3-phenylpropyl bromide | 0.43 mmol, 87 mg, 1.5 eq | C1(=CC=CC=C1)CCCBr | C9H11Br
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-methoxy-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(3-phenylpropyl)piperidin-4-yl]propyl]benzimidazole | Yield: 72% | COC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)CCCC2=CC=CC=C2 | C32H38ClN3O2
